US07635785B2
(Comparison) Aluminum Diethylphosphinate
800 g of the resultant mixture composed mainly of sodium diethylphosphinate were dissolved in 2500 ml of acetic acid, and 38 g (0.48 mol) of aluminum hydroxide were then added. The mixture was then heated at reflux for about 4 hours, cooled, and filtered. The resultant solid was washed first with 1 liter of glacial acetic acid, then with 1 liter of distilled water, and finally with 500 ml of acetone, and then vacuum-dried at 130° C. Yield: 183 g (92% of theory).

reactant | sodium diethylphosphinate | C(C)P([O-])(=O)CC.[Na+]
reactant | aluminum hydroxide | 0.48 mol, 38 g | [OH-].[Al+3].[OH-].[OH-]
solvent | acetic acid | 2500 ml | C(C)(=O)O | C2H4O2
product | Aluminum Diethylphosphinate | C(C)P([O-])(=O)CC.[Al+3].C(C)P([O-])(=O)CC.C(C)P([O-])(=O)CC | InChI=1S/3C4H11O2P.Al/c3*1-3-7(5,6)4-2;/h3*3-4H2,1-2H3,(H,5,6);/q;;;+3/p-3
